US07772264B2
A 1000 mL double jacketed glass reactor equipped with a mechanical stirrer, a Pt-100 thermometer, a reflux condenser, a dropping funnel and a nitrogen inlet was charged with 50.0 g (483 mmol) of L-Prolinamide and 230 mL of methylenechloride. The suspension was stirred and treated with 51.2 g (504 mmol) of triethylamine and cooled to −40° C. to −50° C. and a solution of 58.0 g (508 mmol) of chloroacetylchloride in 50 mL of methylenechloride was added within 60 to 90 min. The dropping funnel was rinsed with 5 mL of methylenechloride. The suspension was warmed up to −5° C. to 0° C. within 1 h. The resulting (S)-1-(2-Chloro-acetyl)-pyrrolidine-2-carboxylic acid amide was dehydrated while adding the solution of the Vilsmeier-Reagent from the first reaction within 1 to 15 min at −5° C. to 5° C. The dropping funnel was rinsed with 5 mL of methylenechloride and the resulting mixture was stirred for about 1 h at −5° C. to 5° C. The reaction mixture was then poured onto 175 mL of water within 10 to 30 min and at a temperature of 5° C. to 20° C. The reactor was rinsed with 5 mL of methylenechloride. The mixture was stirred at RT for at least 30 min. The phases were separated and the aqueous phase was twice extracted with a total of 170 mL of methylenechloride. The organic phases were unified and washed with 88 mL of water. The resulting organic phase was concentrated under vacuum (500 mbar to 50 mbar) at 20° C. to 50° C. The resulting oil was treated within 10 to 30 min with 325 mL of isopropanol and heated to 45° C. Subsequently, the solution was again cooled to 25° C. to 30° C. within 20 min and inoculated where after the product started to precipitate. The suspension was stirred for 1 h at this temperature and then cooled down to −15° C. to −20° C. within 4 h. The crystallization was completed by the addition of 85 ml of n-heptane and the mixture was kept stirring for another 2 h. The precipitate was filtered with suction, the filter cake was washed with cold (−10° C. to 20° C.) n-heptane (140 mL) and dried to constant weight (50° C., 50 mbar, 3 h) to afford 62.6 g of (S)-1-(2-chloroacetyl)-pyrrolidine-2-carbonitrile. (Yield: 83%, assay: 100% (m/m) based on HPLC). The HPLC analysis was performed with an external standard of pure (S)-1-(2-chloroacetyl)-pyrrolidine-2-carbonitrile. Conditions for HPLC: Column Atlantis™ dC18 Waters, 3.9×150 mm, 3 μm, UV detection 205 nm, solutions for gradient: water (A), acetonitrile (B), pH 4.9 buffer KH2PO4 (C); flow 1.2 mL/min, 40° C.

reactant | Pt-100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | L-Prolinamide | 483 mmol, 50.0 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | triethylamine | 504 mmol, 51.2 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 508 mmol, 58.0 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylenechloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 230 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(2-chloroacetyl)-pyrrolidine-2-carbonitrile | 62.6 g, Yield: 83% | ClCC(=O)N1[C@@H](CCC1)C#N | C7H9ClN2O
